### PR TITLE
Prove `decodeSchedContextInvocation_ccorres`

### PR DESCRIPTION
**Pull request by michaelmcinerney**
Test with https://github.com/seL4/seL4/pull/1435

### CODE REVIEW

**Comment by michaelmcinerney** [comment]
Tests have failed for CRefine, and it seems to be something that is not terminating. But I'm quite sure that it's just a minor tweak that's needed here, and it should be fine to review now.

File: proof/crefine/RISCV64/Finalise_C.thy [hunk 1]
```diff
@@ -2668,29 +2668,403 @@ lemma prepareThreadDelete_ccorres:
   apply fastforce
   done
 
+lemma bindNTFN_alignment_junk:
+  "\<lbrakk> is_aligned tcb tcbBlockSizeBits; bits \<le> ctcb_size_bits \<rbrakk>
+   \<Longrightarrow> ptr_val (tcb_ptr_to_ctcb_ptr tcb) && ~~ mask bits = ptr_val (tcb_ptr_to_ctcb_ptr tcb)"
```
Comment (lsf37) [inline proof/crefine/RISCV64/Finalise_C.thy:2673]: Does need a better name..

Maybe `tcb_ptr_to_ctcb_ptr_alignment`?

File: proof/crefine/RISCV64/Machine_C.thy [hunk 2]
```diff
@@ -406,9 +406,13 @@ defs ticks_per_timer_unit_def:
 defs timer_unit_def:
   "timer_unit \<equiv> (1000 * 1000 :: ticks)"
 
+\<comment> \<open>From sel4/include/arch/riscv/arch/machine/timer.h\<close>
+defs max_ticks_to_us_def:
+  "max_ticks_to_us \<equiv> (max_word :: ticks)"
```
Comment (lsf37) [inline proof/crefine/RISCV64/Machine_C.thy:411]: Do we still need this one now that we've removed the check?

File: proof/crefine/RISCV64/Machine_C.thy [hunk 3]
```diff
@@ -462,5 +472,11 @@ lemma wrap_config_set_spec:
   "\<forall>s. \<Gamma> \<turnstile> {s} Call wrap_config_set_'proc \<lbrace>\<acute>ret__int = x_' s\<rbrace>"
   by (rule allI, rule conseqPre, vcg) clarsimp
 
+lemma getMaxTicksToUs_spec:
+  "\<forall>s. \<Gamma> \<turnstile> {s} Call getMaxTicksToUs_'proc \<lbrace>\<acute>ret__unsigned_longlong = maxTicksToUs\<rbrace>"
+  apply vcg
+  apply (clarsimp simp: maxTicksToUs_def timer_defs)
+  done
```
Comment (lsf37) [inline proof/crefine/RISCV64/Machine_C.thy:479]: (same for this one -- we're probably going to remove the function from the C)

File: proof/invariant-abstract/IpcCancel_AI.thy [hunk 4]
```diff
@@ -2649,28 +2653,9 @@ crunch set_consumed
...
-          hoare_vcg_conj_lift[OF set_consumed_invs
-                                  set_consumed_ex_nonz]])
-    apply (auto)[2]
-    apply (clarsimp simp: pred_tcb_at_def obj_at_def)
-   apply (clarsimp simp: invs_def valid_state_def valid_pspace_def)
-   apply (drule (1) if_live_then_nonz_capD; clarsimp simp: live_def)
-  apply (wpsimp wp: sched_context_cancel_yield_to_invs)
-  done
+crunch complete_yield_to
+  for invs[wp]: invs
```
Comment (lsf37) [inline proof/invariant-abstract/IpcCancel_AI.thy:2657]: Nice reduction.

**Review by lsf37 — COMMENTED** [review]
Looking good, no conceptual problems. Still need to fix up AInvs.
